US05846982
5-(4,5-dihydrothiazol-5-yl)-3-(1-methylpiperidin-4-yl)-1H-indole
To a mixture of 0.54 gm (1.8 mMol) 5-(4,5-dihydrothiazol-5-yl)-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole in 20 mL trifluoroacetic acid were added slowly 320 μL (2 mMol) triethylsilane. The reaction mixture was stirred at room temperature for 18 hours and then concentrated under reduced pressure. The residual oil was partitioned between ethyl acetate and aqueous potassium carbonate. The organic phase was dried over sodium sulfate and concentrated under reduced pressure. The residue was crystallized from acetonitrile to provide 0.40 gm (74%) of the title compound compound as a crystalline solid.

reactant | 5-(4,5-dihydrothiazol-5-yl)-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.8 mMol, 0.54 gm | S1C=NCC1C=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C17H19N3S
reactant | triethylsilane | 2 mMol, 320 μL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(4,5-dihydrothiazol-5-yl)-3-(1-methylpiperidin-4-yl)-1H-indole | 0.40 gm, 74% | S1C=NCC1C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C17H21N3S
